US04910200
E-3(4-Benzoylphenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide
This compound was obtained analogous to Example 23 by reacting 4-benzoylcinnamic acid morpholide and 4-bromoveratrole.

reactant | 4-benzoylcinnamic acid morpholide | C(C1=CC=CC=C1)(=O)C1=CC=C(C=CC(=O)N2CCOCC2)C=C1 | C20H19NO3
reactant | 4-bromoveratrole | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
product | E-3(4-Benzoylphenyl)-3-(3,4-dimethoxyphenyl)acrylic acid morpholide | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)\C(=C/C(=O)N1CCOCC1)\C1=CC(=C(C=C1)OC)OC | C28H27NO5
